US08431695B2
Preparation of 5-(3-Amino-2-benzyl-2H-indazol-6-yl)-7-(1-cyclopropyl-piperidin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
To a solution of 5-(3-amino-2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.228 mmol) in MeOH (2.3 mL) was added acetic acid (0.13 mL, 2.28 mmol, 10.0 eq), 3 Å molecular sieves (50 mg), [1-(ethoxycyclopropyl)-oxy]timethylsilane (0.28 mL, 1.37 mmol, 6.0 eq), and sodium cyanoborohydride (64.5 mg, 1.03 mmol, 4.5 eq). The reaction mixture was stirred at 60° C. under N2 for 18 h. The mixture was cooled to rt and aqueous, saturated NaHCO3 solution (1.0 mL) was added to quench the reaction. The mixture was partitioned between EtOAc and water. The organic phase was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude was purified via preparative HPLC. The product containing fractions were collected, and the TFA from the eluent was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The MeOH was removed and the residue was crystallized from DCM-ether-hexane to provide the title compound (35.5 mg, 32.5%) as pink solid. 1H NMR (300 MHz, DMSO-d5) δ 7.87 (s, 1H), 7.70 (d, 1H), 7.34 to 7.29 (m, 2H), 7.27 to 7.21 (m, 3H), 7.15 (s, 1H), 6.73 (dd, 1H), 6.52 (s, 1H), 6.37 (s, 2H), 5.38 (s, 2H), 3.12 to 3.00 (m, 3H), 2.28 (t, 2H), 1.96 (d, 2H), 1.67 to 1.56 (m, 3H), 0.43 to 0.39 (m, 2H), 0.31 to 0.27 (m, 21-1); ES-MS m/z 479.2 [M+H]+, RT (min) 1.80.

reactant | 5-(3-amino-2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.228 mmol, 100 mg | NC=1N(N=C2C=C(C=CC12)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2)CC2=CC=CC=C2 | C25H26N8
reactant | acetic acid | 2.28 mmol, 0.13 mL, 10.0 eq | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.03 mmol, 64.5 mg, 4.5 eq | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 1.0 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2.3 mL | CO | CH4O
product | 5-(3-Amino-2-benzyl-2H-indazol-6-yl)-7-(1-cyclopropyl-piperidin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 35.5 mg, 32.5% | NC=1N(N=C2C=C(C=CC12)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)C2CC2)CC2=CC=CC=C2 | C28H30N8
